US09326973B2
60% NaH (0.233 g, 5.81 mmol) was added to a cold (0° C.) solution of thiophenol (0.566 mL, 5.54 mmol) in DMSO (6 mL) and the reaction mixture was allowed to warm to rt over 30 min. Then neat ethyl 2-bromo-2,2-difluoroacetate (1.236 g, 6.09 mmol) was added and the mixture was stirred at rt overnight. The reaction was quenched with satd. NH4Cl and extracted with ether, washed with water, brine and dried (MgSO4). The crude isolate was purified by silica gel FCC (1:1 DCM-hexanes) to afford ethyl 2,2-difluoro-2-(phenylthio)acetate as a clear oil (1.076 g, 84%): 1H NMR (500 MHz, CHLOROFORM-d) δ 7.67-7.62 (m, 2H), 7.52-7.46 (m, 1H), 7.45-7.39 (m, 2H), 4.27 (q, J=7.2 Hz, 2H), 1.28 (t, J=7.2 Hz, 3H).

reactant | NaH | 5.81 mmol, 0.233 g | [H-].[Na+]
reactant | thiophenol | 5.54 mmol, 0.566 mL | C1(=CC=CC=C1)S | C6H6S
reactant | ethyl 2-bromo-2,2-difluoroacetate | 6.09 mmol, 1.236 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | ethyl 2,2-difluoro-2-(phenylthio)acetate | 1.076 g, 84% | FC(C(=O)OCC)(SC1=CC=CC=C1)F | C10H10F2O2S
